US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoic acid
A suspension of methyl 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate (10.65 g, 0.047 mmol), cesium carbonate (30.71 g, 0.094 mol) and 1-(3,4-difluorobenzoyl)azetidine (9.28 g, 0.047 mol) in dimethylacetamide (80 mL) was heated at 120° C. for 22 hours. The reaction mixture was cooled and water (60 mL) added followed by lithium hydroxide monohydrate (1.97 g, 0.047 mol) in water (45 mL). The reaction was stirred for a further 24 hours. Water (100 mL) was added and the mixture extracted with ethyl acetate (3×50 mL) to remove any ester. The aqueous layer was acidified and extracted into ethyl acetate (5×50 mL). The extracts were combined and washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered, and evaporated in vacuo to give a yellow liquid. A diethyl ether/ethyl acetate mixture (3:1) was added and the solution washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered and evaporated in vacuo to give the desired compound. (9.8 g)

reactant | methyl 3-hydroxy-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate | 0.047 mmol, 10.65 g | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](CO)C | C11H14O5
reactant | cesium carbonate | 0.094 mol, 30.71 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(3,4-difluorobenzoyl)azetidine | 0.047 mol, 9.28 g | FC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9F2NO
reactant | lithium hydroxide monohydrate | 0.047 mol, 1.97 g | O.[OH-].[Li+]
solvent | dimethylacetamide | 80 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 45 mL | O | H2O
solvent | Water | 100 mL | O | H2O
solvent | water | 60 mL | O | H2O
solvent | diethyl ether ethyl acetate | C(C)OCC.C(C)(=O)OCC
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoic acid | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO)C)C=C1)F | C20H20FNO6
